US05726165
(R)-4-(2-t-Butoxycarbonylaminopropyl)phenoxyacetic acid, methyl ester
Potassium carbonate (1.95 g, 14.2 mMol) was added to a solution of (R)-2-(4-hydroxyphenyl)-1-methylethylcarbamic acid, t-butyl ester (2.96 g, 11.8 mMol) in acetone (50 ml) at room temperature under argon. Methyl bromoacetate (1.81 g, 11.8 mMol) was added dropwise and the reaction mixture was heated at reflux for 3 hours. The solvent was removed under reduced pressure and the residue was taken into ethyl acetate and washed with water (2×30 ml). The organic extracts were dried with sodium sulfate and the solvent evaporated in vacuo. The crude product was purified by chromatography on Kieselgel 60 (eluting with 20% ethyl acetate in pentane) to give the title compound as an oil.

reactant | Potassium carbonate | 14.2 mMol, 1.95 g | C([O-])([O-])=O.[K+].[K+]
reactant | (R)-2-(4-hydroxyphenyl)-1-methylethylcarbamic acid, t-butyl ester | 11.8 mMol, 2.96 g | OC1=CC=C(C=C1)C[C@@H](C)NC(OC(C)(C)C)=O | C14H21NO3
reactant | Methyl bromoacetate | 11.8 mMol, 1.81 g | BrCC(=O)OC | C3H5BrO2
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | (R)-4-(2-t-Butoxycarbonylaminopropyl)phenoxyacetic acid, methyl ester | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=C(OCC(=O)OC)C=C1)C | C17H25NO5
